US09382228B2
A −10° C. suspension of NaH (60% in mineral oil, 0.726 g, 18.16 mmol) in anhydrous DMA (15 mL) was treated with 6-aminopyridin-3-ol (1.0 g, 9.08 mmol), stirred cold for 30 min, treated drop-wise with a solution of 4,6-dichloropyrimidine (2.029 g, 13.62 mmol) in DMA (10 mL), warmed to RT and stirred for 2 h. The mixture was treated with H2O, extracted with DCM (3×) and the combined organics were washed with 5% LiCl, then brine, dried over Na2SO4, concentrated to dryness and purified via silica gel chromatography (EtOAc) to afford 5-((6-chloropyrimidin-4-yl)oxy)pyridin-2-amine (1.0 g, 49%). 1H NMR (400 MHz, DMSO-d6): δ 8.62 (d, J=0.9 Hz, 1H), 7.79 (d, J=2.9 Hz, 1H), 7.33-7.26 (m, 2H), 6.48 (d, J=8.9 Hz, 1H), 6.00 (s, 2H); MS (ESI) m/z: 223.0 (M+H+).

reactant | NaH | 18.16 mmol, 0.726 g | [H-].[Na+]
reactant | 6-aminopyridin-3-ol | 9.08 mmol, 1.0 g | NC1=CC=C(C=N1)O | C5H6N2O
reactant | 4,6-dichloropyrimidine | 13.62 mmol, 2.029 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | H2O | O | H2O
solvent | DMA | 15 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
product | 5-((6-chloropyrimidin-4-yl)oxy)pyridin-2-amine | 1.0 g, 49% | ClC1=CC(=NC=N1)OC=1C=CC(=NC1)N | C9H7ClN4O
